US06743814B2
7.5 g of 3,8-dioxa-1,6-diazaspiro[4,4]nona-1,6-diene-2,7-dithiol, 7.5 g of 4-bromo-1,1,2-trifluoro-1-butene and 7.0 g of potassium carbonate were added to 200 ml of acetonitrile and refluxed for 5 hours. The reaction mixture was cooled to room temperature and filtered by sucction and the filtrate was distilled under reduced pressure. The residue was purified by column chromatography (eluent: ethyl acetate:dichloromethane=1:4) to obtain 7.0 g of 4-hydroxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole as colorless oil (yield 74.2%). n20D=1.4910.

reactant | 3,8-dioxa-1,6-diazaspiro[4,4]nona-1,6-diene-2,7-dithiol | 7.5 g | N1=C(OCC12N=C(OC2)S)S | C5H6N2O2S2
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 7.5 g | BrCCC(=C(F)F)F | C4H4BrF3
reactant | potassium carbonate | 7.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-hydroxymethyl-2-(3,4,4-trifluoro-3-butenylthio)oxazole | 7.0 g, yield 74.2% | OCC=1N=C(OC1)SCCC(=C(F)F)F | C8H8F3NO2S
